US04870095
A mixture of 7.96 g (0.026 mol) of ethyl 3,4-diphenyl-1H-pyrazole-1-acetate and 19.2 g (0.26 mol) of 1,3-diaminopropane in 13 mL of ethanol was stirred at 84°-87° C. for 3 hours and the solvent removed in vacuo. The resulting solid was chromatographed on 34 g of silica gel eluting with 1% isopropylamine in chloroform and a gradient from 0-30% methanol. The impurities came off at 2-4% methanol followed by 6.95 g of pure product. It was crystallized three times from isopropyl acetate to yield 6.09 g of N-(3-aminopropyl)-4,5-diphenyl-1H-pyrazole-1-acetamide (1:4) hydrate, mp 119°-120° C.

reactant | ethyl 3,4-diphenyl-1H-pyrazole-1-acetate | 0.026 mol, 7.96 g | C1(=CC=CC=C1)C1=NN(C=C1C1=CC=CC=C1)CC(=O)OCC | C19H18N2O2
reactant | 1,3-diaminopropane | 0.26 mol, 19.2 g | NCCCN | C3H10N2
reactant | ethanol | 13 mL | C(C)O | C2H6O
product | N-(3-aminopropyl)-4,5-diphenyl-1H-pyrazole-1-acetamide | 6.09 g | NCCCNC(CN1N=CC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C20H22N4O
